US07414061B2
a) 4-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid ethyl ester
As described for Example 1, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (2.25 g, 10.0 mmol) was converted, using 4-fluorobenzoic acid ethyl ester (1.54 g, 10.0 mmol) instead of 4-fluoroacetophenone, to the title compound (2.68 g, 72%) which was obtained as brown oil. MS: m/e=374.1 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 10.0 mmol, 2.25 g | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 4-fluorobenzoic acid ethyl ester | 10.0 mmol, 1.54 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
product | 4-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid ethyl ester | 2.68 g, 72% | C(C)OC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C22H19N3O3
